US06407092B1
A solution of 3,4-dihydro-1(2H)-quinolinylamine (2.97 g, 20.1 mmol), benzyl 4-oxo-1-azepanecarboxylate (4.96 g, 20.1 mmol), and glacial acetic acid (0.2 ml) in ethanol (200 ml) was allowed to reflux for 2.5 hours. The reaction was then cooled and evaporated in vacuo. The hydrazone product was purified by flash chromatography (90 g SiO2, 1% MeOH/CH2Cl2) providing benzyl 4-[3,4-dihydro-1(2H)-quinolinylimino]-1-azepanecarboxylate (7.55 g) as an oil. To a solution of benzyl 4-[3,4-dihydro-1(2H)-quinolinylimino]-1-azepanecarboxylate (6.79 g, 17.99 mmol) in ethanol (200 ml) was added trifluoroacetic acid (6.22 g, 53.96 mmol). The reaction was heated and allowed to stir at reflux for 2.5 hours, at which time it was cooled to rt., evaporated, and extracted into dichloromethane. This extract was washed with water, brine, dried with anhydrous sodium sulfate, and evaporated under reduced pressure. Crystallization from ethyl acetate/hexanes provided 2.93 g of the title compound (mp 131-133° C.). 1H NMR (CDCl3) δ 7.38, 7.29, 7.00, 6.86, 5.19, 3.98, 3.78, 2.97, 2.24; IR (drift) 2947, 1699, 1473, 1420, 1358, 1260, 1250, 1235, 1216, 1101, 997, 764, 757, 746, 703 cm−1.

reactant | 3,4-dihydro-1(2H)-quinolinylamine | 20.1 mmol, 2.97 g | N1(CCCC2=CC=CC=C12)N | C9H12N2
reactant | benzyl 4-oxo-1-azepanecarboxylate | 20.1 mmol, 4.96 g | O=C1CCN(CCC1)C(=O)OCC1=CC=CC=C1 | C14H17NO3
reactant | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | benzyl 4-[3,4-dihydro-1(2H)-quinolinylimino]-1-azepanecarboxylate | 7.55 g | N1(CCCC2=CC=CC=C12)N=C1CCN(CCC1)C(=O)OCC1=CC=CC=C1 | C23H27N3O2
